US08309718B2
3-cyclopentyl-3-(4-(5-methoxy-2-(4-(morpholine-4-carbonyl)phenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)propanenitrile
To a mixture of 4-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-5-methoxypyrimidin-2-ylamino)benzoic acid (25 mg, 0.058 mmol), morpholine (5.0 μL, 0.058 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (31 mg, 0.069 mmol) in N,N-dimethylformamide (0.4 mL) was added N,N-diisopropylethylamine (24 μL, 0.14 mmol). The reaction was stirred at room temperature for 1 h, quenched with water, purified on HPLC to give the desired product as a racemic mixture. LCMS (M+H) 502.5.

reactant | 4-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-5-methoxypyrimidin-2-ylamino)benzoic acid | 0.058 mmol, 25 mg | C(#N)CC(C1CCCC1)N1N=CC(=C1)C1=NC(=NC=C1OC)NC1=CC=C(C(=O)O)C=C1 | C23H24N6O3
reactant | morpholine | 0.058 mmol, 5.0 μL | N1CCOCC1 | C4H9NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.069 mmol, 31 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.14 mmol, 24 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
product | 3-cyclopentyl-3-(4-(5-methoxy-2-(4-(morpholine-4-carbonyl)phenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)propanenitrile | C1(CCCC1)C(CC#N)N1N=CC(=C1)C1=NC(=NC=C1OC)NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C27H31N7O3
